US03937833
To 20 g (0.093 mole) of 2,7-dihydroxyxanthene in 350 ml of chlorobenzene are added 16.5 g (0.3 mole) of sodium methoxide and 60 ml of methanol. The reaction mixture is stirred and heated during which time the methanol is removed by distillation. The mixture is cooled and 34.7 g (0.26 mole) of 2-piperidinoethyl chloride hydrochloride is added. After refluxing with stirring for 4 hours the mixture is cooled and 100 ml of water plus 10 ml of 50% NaOH solution are added. The mixture is stirred for 15 minutes and 100 ml of chloroform is added. The organic layer which separates is washed with 5% NaOH solution, then with water, dried over anhydrous magnesium sulfate, filtered and concentrated to a solid which is recrystallized from hexane to give 2,7-bis(2-piperidinoethoxy)xanthene.

reactant | 2,7-dihydroxyxanthene | 0.093 mole, 20 g | OC1=CC=2CC3=CC(=CC=C3OC2C=C1)O | C13H10O3
reactant | sodium methoxide | 0.3 mole, 16.5 g | C[O-].[Na+]
reactant | 2-piperidinoethyl chloride hydrochloride | 0.26 mole, 34.7 g | Cl.N1(CCCCC1)CCCl
reactant | NaOH | 10 ml | [OH-].[Na+]
solvent | chlorobenzene | 350 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 2,7-bis(2-piperidinoethoxy)xanthene | N1(CCCCC1)CCOC1=CC=2CC3=CC(=CC=C3OC2C=C1)OCCN1CCCCC1 | C27H36N2O3
